US07332510B2
2-[4-(2-Chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyrimidine
The title compound, MS: m/e=296.5 (M+H+), was prepared in accordance with the general method of example 3 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 2-chloro-pyrimidine.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | 2-chloro-pyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 2-[4-(2-Chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-pyrimidine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=NC=CC=N1)C | C15H10ClN5
